### PR TITLE
More material on non-wellfounded trees

### PR DESCRIPTION
**Pull request by siddharthist**
Coauthored with Christian Graulund (@Chgrau).

We have more results on the way, but these are significant on their own.

### CODE REVIEW

**Comment by rmatthes** [comment]
Did you really want to include the material for further discussion?

File: UniMath/Induction/M/Chains.v [hunk 1]
```diff
@@ -241,3 +244,86 @@ Proof.
       apply (@weqsecovercontr_uncurried
                nat (λ n, (S (S u)) = n) (λ _ _, _ = xs (S u)) (iscontr_paths_from _)).
 Defined.
+
+
+Local Lemma transportf_paths_FlFr {A B : UU} {f g : A -> B} {x1 x2 : A}
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]: Could you move these and the following results to MoreFoundations?

**Comment by siddharthist** [comment]
@rmatthes No, I just forgot to push the commit removing it. Thanks for the catch!

File: UniMath/Induction/M/Chains.v (hunk 1 above)
Comment (siddharthist) [reply UniMath/Induction/M/Chains.v]: Yes, I hoped to get your feedback on what part of MoreFoundations might be most appropriate.

**Comment by siddharthist** [comment]
I've removed the erroneously-committed file and added another result.

File: UniMath/Induction/M/Chains.v (hunk 1 above)
Comment (benediktahrens) [reply UniMath/Induction/M/Chains.v]: I would say that MoreFoundations/PartA would be suitable.

File: UniMath/Induction/M/Chains.v [hunk 2]
```diff
@@ -241,3 +244,250 @@ Proof.
...
+     reflexivity.
+ - cbn.
+   reflexivity.
+Defined.
+
+(* Maybe easier to apply in Lemma *)
+Definition lemma_11_unfolded (X : nat -> UU) (l : ∏ n, X n -> X (S n)) :
+  (∑ (x : ∏ n, X n), ∏ n, x (S n) = l n (x n)) ≃ X 0 := lemma_11 X l.
+
+Lemma total2_assoc_fun_left {A B : UU} (C : A -> B -> UU) (D : (∏ a : A, ∑ b : B, C a b) -> UU) :
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]: Should be moved to MoreFoundations - maybe file WeakEquivalences?

Comment (benediktahrens) [reply UniMath/Induction/M/Chains.v]: Same for constructions below

File: UniMath/Induction/M/Chains.v [hunk 3]
```diff
@@ -241,3 +244,250 @@ Proof.
...
+ - intros p.
+   use tpair.
+   + intros a.
+     use tpair.
+     * exact (pr1 p a).
+     * exact (pr1 (pr2 p) a).
+   + exact (pr2 (pr2 p)).
+ - reflexivity.
+ - reflexivity.
+Qed.
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]: This should be `Defined.`

**Comment by benediktahrens** [comment]
I think *all* the equivalences constructed in this PR should be transparent, i.e., closed with `Defined.` rather than `Qed.` - at least if that does not lead to too long compile times.

**Comment by siddharthist** [comment]
@benediktahrens Okay, I'll try it out.

**Comment by rmatthes** [comment]
Please, continue the discussion on this material in the new PR #1224 that I opened.
@siddharthist: if you were already on that, then please tell me now

**Comment by DanGrayson** [comment]
Do you want to close this pull request?

**Comment by rmatthes** [comment]
@DanGrayson : as soon as PR #1224 is merged, this PR should be closed, too

**Comment by siddharthist** [comment]
@rmatthes Thanks for fixing this up, I appreciate it!

**Comment by rmatthes** [comment]
@siddharthist : You are very welcome - I am glad and thankful that you and @Chgrau almost finished this development at the UniMath 2019 school.
